US06696566B2
To a solution of ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate (Aldrich, 20 g, 86 mmol) in 250 mL of dichworomethane at 0° C. was added slowly solution of methylamine in ethanol (33%, 35 mL 281 mmol). After stirring for 30 minutes, water (150 mL) was added and the phases were separated. The organic phase was dried (MgSO4) and filtered. The filtrate was evaporated under reduced pressure to give 19 g of the ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate as a white solid.

reactant | ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate | 86 mmol, 20 g | ClC1=NC(=NC=C1C(=S)OCC)C | C8H9ClN2OS
reactant | methylamine | CN | CH5N
reactant | ethanol | 281 mmol, 35 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate | 19 g | CNC1=NC(=NC=C1C(=S)OCC)C | C9H13N3OS
